US08013008B2
(2S,3R)-3-cyclopropyl-2-ethylpyrrolidin-3-ol 0.5 oxalate
By an operation in the same manner as in Reference Example 4 and using benzyl (2S,3R)-3-cyclopropyl-2-ethyl-3-hydroxypyrrolidine-1-carboxylate (2.01 g) and 50% water containing-10% Pd/C (0.20 g), the title compound was obtained as a colorless solid (yield: 1.35 g, yield: 96%).

reactant | benzyl (2S,3R)-3-cyclopropyl-2-ethyl-3-hydroxypyrrolidine-1-carboxylate | 2.01 g | C1(CC1)[C@]1([C@@H](N(CC1)C(=O)OCC1=CC=CC=C1)CC)O | C17H23NO3
catalyst | Pd/C | 0.20 g | [Pd] | Pd
solvent | water | O | H2O
product | (2S,3R)-3-cyclopropyl-2-ethylpyrrolidin-3-ol | C1(CC1)[C@]1([C@@H](NCC1)CC)O | C9H17NO
